US08461328B2
3-Azido-cyclopentanol
To a solution of 3-Azido-cyclopentanone (about 7.2 g, 57.6 mmol) in methanol (250 mL) was added sodium borohydride (11 g, 288 mmol) in five portions at 0° C., then the reaction mixture was stirred at room temperature for 1 hour. The resulting mixture was quenched with water and extracted with ethyl acetate. The organic solution (TLC showed one spot) was concentrated and the residue was used for the next step. 1H NMR (400 MHz, CDCl3) δ: 4.25-4.30 (m, 1H), 3.95-3.80 (m, 6H).

reactant | 3-Azido-cyclopentanone | 57.6 mmol, about 7.2 g | N(=[N+]=[N-])C1CC(CC1)=O | C5H7N3O
reactant | sodium borohydride | 288 mmol, 11 g | [BH4-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
product | 3-Azido-cyclopentanol | N(=[N+]=[N-])C1CC(CC1)O | C5H9N3O
